US07521461B2
N-Ethyl-N-(2-pyridin-2-ylethyl)amine (0.5 g, 3.32 mmol) and 3-(4-hydroxyphenyl)-propanoic acid (0.50 g, 3.00 mmol) was dissolved in dimethylformamide (5 ml) and cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (1.18 g, 3.66 mmol) and diisopropylethylamine (0.90 g, 7.0 mmol) were added and the solution was warmed to room temperature and stirred overnight. EtOAc (15 ml) was added and the organic phase was washed with two portions of sodium hydrogencarbonate (aq, 10 ml). The organic phase was dried MgSO4) and EtOAc was removed by evaporation to give 0.913 gram of N-ethyl-3-(4 hydroxyphenyl)-N-(2-pyridin-2-ylethyl)propanamide (yield 91.9%).

reactant | N-Ethyl-N-(2-pyridin-2-ylethyl)amine | 3.32 mmol, 0.5 g | C(C)NCCC1=NC=CC=C1 | C9H14N2
reactant | 3-(4-hydroxyphenyl)-propanoic acid | 3.00 mmol, 0.50 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 3.66 mmol, 1.18 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 7.0 mmol, 0.90 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | N-ethyl-3-(4 hydroxyphenyl)-N-(2-pyridin-2-ylethyl)propanamide | 0.913 gram, yield 91.9% | C(C)N(C(CCC1=CC=C(C=C1)O)=O)CCC1=NC=CC=C1 | C18H22N2O2
